US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-ol
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromophenol. MS (ESI): mass calcd. for C16H12FN3O, 281.10; m/z found, 282.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 9.72 (s, 1H), 8.36 (s, 1H), 8.01 (d, J=1.4, 1H), 7.87 (m, 1H), 7.49 (dd, J=4.4, 1.3, 1H), 7.45 (s, 1H), 7.34 (dd, J=7.4, 1.3, 1H), 7.19 (m, 1H), 6.95 (d, J=7.3, 1H), 6.89 (m, 1H), 6.68 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-ol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)O)F | C16H12FN3O
